US04329347
6-[4-(2-Furylmethyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 6-[4-(2-furylmethyl-mercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[4-(2-furylmethyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | O1C(=CC=C1)CSCCCCOC=1C=C2CCC(NC2=CC1)=O | C18H21NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(2-Furylmethyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | O1C(=CC=C1)CS(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C18H21NO4S
